US07538931B2
1-Benzyl-4-methyl-1H-benzimidazole
To a flask were added 1.0 g 4-methyl-1H-benzimidazole, 1.6 g potassium carbonate, 25 ml N,N-dimethylformamide and the mixture was stirred under nitrogen. 1.4 g Benzyl chloride were added and the mixture was heated to 60 C for 16 hours. Another 0.4 g of benzyl chloride were added and the reaction was heated to 70 C for 24 hours. The reaction was cooled to 50 C and quenched with 50 ml water and extracted with ethyl acetate. After washing with water, the solvent was removed and the product was purified by column chromatography using a gradient from 40% ethyl acetate in hexane to 75% ethyl acetate in hexane. Following removal of the solvent, the partially crystallized product was dissolved in 20 ml acetonitrile and treated with 0.1 g activated carbon. After refluxing for 20 minutes, the mixture was filtered through celite and the solvent was removed leaving a yellow oil which crystallized on standing, 1.0 g.

reactant | 4-methyl-1H-benzimidazole | 1.0 g | CC1=CC=CC=2NC=NC21 | C8H8N2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 1.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 0.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-methyl-1H-benzimidazole | C(C1=CC=CC=C1)N1C=NC2=C1C=CC=C2C | C15H14N2
